US07846950B2
[2-Fluoro-4-(thiazol-4-ylmethoxy)-phenyl]-[2(S)-(2-(R)methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to Procedures D and E using 2-fluoro-4-hydroxy-benzoic acid methyl ester [CAS 197507-22-5], 4-(chloromethyl)thiazole hydrochloride [CAS 7709-58-2], and 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (ES+) m/e 404.2

reactant | 2-fluoro-4-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)O)F)=O | C8H7FO3
reactant | 4-(chloromethyl)thiazole hydrochloride | Cl.ClCC=1N=CSC1
reactant | 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | [2-Fluoro-4-(thiazol-4-ylmethoxy)-phenyl]-[2(S)-(2-(R)methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | FC1=C(C=CC(=C1)OCC=1N=CSC1)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C21H26FN3O2S
